US07598232B2
(E)-2,4,6-trimethoxystyryl-3-(acetoxyacetamido)-4-methoxybenzylsulfone
A solution of acetoxyacetyl chloride (10 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxy benzylsulfone (10 mmol) was reacted according to General Method A. The product obtained was purified column chromatography to give a 90% yield of the desired product. (m.p. 192-1 94° C.)

reactant | acetoxyacetyl chloride | 10 mmol | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxy benzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
product | (E)-2,4,6-trimethoxystyryl-3-(acetoxyacetamido)-4-methoxybenzylsulfone | 90% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(COC(C)=O)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(COC(C)=O)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C46H52N2O16S
